US06008231
N-(pyridin-4-yl)-[1-(4-fluorobenzyl)indol-3-yl]glyoxylamide
A solution of 4.75 g (21.1 mmol) of 1-(4-fluorobenzyl)indole in 25 ml of ether is added dropwise at 0° C. and under N2 to a solution of 2.25 ml of oxalyl chloride in 25 ml of ether. The mixture is refluxed for 2 hours and the solvent is then evaporated. 50 ml of tetrahydrofuran were [sic] then added to the residue, and the solution is cooled to -5° C. and treated dropwise with a solution of 4.66 g (49.5 mmol) of 4-aminopyridine in 200 ml of THF. The mixture is refluxed for 3 hours and allowed to stand at room temperature overnight. The 4-aminopyridine hydrochloride is filtered off with suction, the precipitate is washed with THF, the filtrate is concentrated in vacuo and the residue is recrystallized from ethyl acetate.

reactant | 1-(4-fluorobenzyl)indole | 21.1 mmol, 4.75 g | FC1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C15H12FN
reactant | oxalyl chloride | 2.25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-aminopyridine | 49.5 mmol, 4.66 g | NC1=CC=NC=C1 | C5H6N2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-(pyridin-4-yl)-[1-(4-fluorobenzyl)indol-3-yl]glyoxylamide | N1=CC=C(C=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)F)=O | C22H16FN3O2
